US04429156
150 parts of a mixture of tetrachloronitrobenzene and pentachloronitrobenzene, the composition of which corresponds to that of the polychloroaniline mixture of Example 3, 200 parts of phenol and 10 parts of aqueous hydroiodic acid (57% strength) are reacted with hydrogen in the presence of 20 parts of ruthenium-on-charcoal catalyst (5% strength), starting at approximately 60° C. to a maximum of 165° C. under a pressure of 20 bars, at the beginning, to a maximum of 50 bars, during the course of 10 hours. After working up, 84.5 parts of 3,5-dichloroaniline are obtained. Yield 92% of theory.

reactant | tetrachloronitrobenzene | ClC=1C(=C(C(=C(C1)[N+](=O)[O-])Cl)Cl)Cl | C6HCl4NO2
reactant | pentachloronitrobenzene | ClC1=C(C(=C(C(=C1[N+](=O)[O-])Cl)Cl)Cl)Cl | C6Cl5NO2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydroiodic acid | I | HI
reactant | hydrogen | [H][H] | H2
product | 3,5-dichloroaniline | Yield 92% | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
